US08791134B2
1-Nitrosocyclohexyl isobutyrate was prepared from cyclohexanone oxime, lead tetraacetate and isobutyric acid using conditions of General Method 3. 1H NMR (400 MHz, chloroform-d) δ 2.68-2.79 (1H, sept, 7.0 Hz), 1.71-1.93 (8H, m), 1.48-1.62 (2H, m), 1.29 (3H, s), 1.27 (3H, s).

reactant | cyclohexanone oxime | C1(CCCCC1)=NO | C6H11NO
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
product | 1-Nitrosocyclohexyl isobutyrate | C(C(C)C)(=O)OC1(CCCCC1)N=O | C10H17NO3
